US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (360 mg, 1.55 mmol), HOTT (628 mg, 1.69 mmol), and DIPEA (740 μL, 4.24 mmol) in DMF (10 mL) is stirred at rt under N2 for 10 min. 1-(1-Amino-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (322 mg, 1.4 mmol) is added. The resulting mixture is stirred at 80° C. overnight. The mixture is cooled and portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by HPLC reverse phase column chromatography eluting with a mobile phase of 0.1% TFA/water through 100% MeCN in a 30 min. ramp to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-amide (71 mg, 11%) as a solid. MS: 443 (M+H). 1H NMR (300 MHz, DMSO-d6): δ 12.56 (s, 1H), 9.32 (s, 1H), 8.90 (d, 1H), 8.35 (d, 1H), 8.30-8.27 (m, 1H), 8.22-8.17 (m, 1H), 7.75-72 (m, 1H), 7.69-7.62 (m, 1H), 7.52-7.44 (m, 3H), 2.81 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.55 mmol, 360 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | HOTT | 1.69 mmol, 628 mg | CN(C)C(=[N+](C)C)SC1=CC=CC=[N+]1[O-].F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.24 mmol, 740 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(1-Amino-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 1.4 mmol, 322 mg | NN1C=C(C2=CC=CC=C12)C(C(F)(F)F)=O | C10H7F3N2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-amide | 71 mg, 11% | FC(C(=O)C1=CN(C2=CC=CC=C12)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)(F)F | C22H14F4N4O2
